vca processor
.include subvol.cir
.include Model_files/LM13600.txt
.include Model_files/Diode_1N914.txt
xd 16 15 0 13 12 6 10 9 11 LM13600/NS
v1 6 0 dc=-12
v2 11 0 dc=12
vsig9 9 0 dc=6
xvol 13 vol_osc
r35 11 13 1.8M
r36 11 15 1.8M
c27 13 0 0.1u
r37 13 t 4.7M
d1 t 12 1N914
r38 11 16 47k
*12 goes to VCA 
*10 is the audio output


